US04812453
1-Benzyl-4-di-ethylaminomethyl-pyrrolidin-2-one
14 g (0.06 mol) of crude 1-benzyl-4-chloromethyl-pyrrolidin-2-one, prepared as in Example 1(a), 10 g of diethylamine and 50 ml of dimethylformamide are stirred or shaken for 2 hours at 150° C. in the autoclave. The mixture is evaporated to dryness in vacuo and the residue is taken up in methylene chloride then washed first with water and finally the title compound is extracted twice with 25 ml of 2 NHCl. The aqueous phase is removed, made alkaline with sodium hydroxide solution and the organic base is extracted with methylene chloride. The methylene chloride phase is concentrated by evaporation and the residue is distilled in vacuo.

reactant | 1-benzyl-4-chloromethyl-pyrrolidin-2-one | 0.06 mol, 14 g | C(C1=CC=CC=C1)N1C(CC(C1)CCl)=O | C12H14ClNO
reactant | diethylamine | 10 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-di-ethylaminomethyl-pyrrolidin-2-one | C(C1=CC=CC=C1)N1C(CC(C1)CN(CC)CC)=O | C16H24N2O
